US07893267B2
To a refluxing solution of 2.0 g (8.0 mmol) of 6,7-dimethoxy-3,4-dihydro-isoquinoline-1-carboxylic acid ethyl ester was added to 2.0 g of 10% Pd—C. After 12 h at reflux, the reaction mixture was cooled, filtered through celite, and evaporated under reduced pressure to provide 2.0 g (98%) of 6,7-dimethoxy-isoquinoline-1-carboxylic acid ethyl ester. LCMS: 262 (M+1)+.

reactant | 6,7-dimethoxy-3,4-dihydro-isoquinoline-1-carboxylic acid ethyl ester | 8.0 mmol, 2.0 g | C(C)OC(=O)C1=NCCC2=CC(=C(C=C12)OC)OC | C14H17NO4
catalyst | Pd—C | 2.0 g | [Pd] | Pd
product | 6,7-dimethoxy-isoquinoline-1-carboxylic acid ethyl ester | 2.0 g, 98% | C(C)OC(=O)C1=NC=CC2=CC(=C(C=C12)OC)OC | C14H15NO4
